US08703941B2
To a 100-mL round-bottom flask was added benzyl N-[4-(dimethylamino)cyclohexyl]-N-(2-hydroxyethyl)carbamate (3.5 g, 10.92 mmol, 1.00 equiv), methanol (50 mL), 10% palladium on carbon (1.0 g) and di-tert-butyl dicarbonate (2.4 g, 11.00 mmol, 1.01 equiv). The resulting solution was stirred overnight at room temperature. The solids were filtered off. The filtrate was concentrated under vacuum and then washed with 4×10 mL of ethyl acetate. The combined organic layers were concentrated under vacuum to yield 3.0 g (96%) of tert-butyl N-[4-(dimethylamino)cyclohexyl]-N-(2-hydroxyethyl)carbamate as a yellow oil. MS: m/z 287 (M+H)+.

reactant | benzyl N-[4-(dimethylamino)cyclohexyl]-N-(2-hydroxyethyl)carbamate | 10.92 mmol, 3.5 g, 1.00 equiv | CN(C1CCC(CC1)N(C(OCC1=CC=CC=C1)=O)CCO)C | C18H28N2O3
reactant | di-tert-butyl dicarbonate | 11.00 mmol, 2.4 g, 1.01 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | tert-butyl N-[4-(dimethylamino)cyclohexyl]-N-(2-hydroxyethyl)carbamate | 3.0 g, 96% | CN(C1CCC(CC1)N(C(OC(C)(C)C)=O)CCO)C | C15H30N2O3
